US08378104B2
Step B: 2-bromo-1-fluoro-3-iodo-benzene
A solution of (2-fluoro-6-iodo-phenyl)-carbamic acid tert-butyl ester (22.5 g, 67 mmol) in ethanol (100 mL) and 48% aqueous hydrobromic acid (100 mL) was stirred at RT. After 1 h the solvent was removed under reduced pressure and the residue was resuspended in 48% aqueous hydrobromic acid (100 mL). The suspension was heated to 60° C. for 10 min followed by cooling to 0° C. in an ice-water bath. A solution of sodium nitrite (4.9 g, 70 mmol) in water (25 mL) was added dropwise keeping the internal temperature below 5° C. The resulting suspension was stirred for 15 min at 0° C. followed by addition of copper (I) bromide (2.93 g, 20 mmol). The mixture was heated to 80° C. for 1 h and subsequently cooled to RT. The mixture was extracted with dichloromethane (2×250 mL) and the organic layer was washed with brine (150 mL), 10% aqueous sodium hydroxide solution (250 mL), brine (250 mL), dried over anhydrous sodium sulfate, filtered and concentrated. The residue was purified by flash column chromatography (5% ethyl acetate:hexanes) to afford 10.5 g (50%) of the title compound. 1H NMR (300 MHz, CDCl3): δ 7.01-7.05 (m, 1H), 7.08-7.12 (m, 1H), 7.67 (d, J=4.8 Hz); 13C NMR (100 MHz, CDCl3): δ 102.5, 115.9 (d, J=22 Hz), 117.6 (d, J=21 Hz), 129.8 (d, J=14 Hz), 135.4 (d, J=21 Hz), 158.7 (d, J=250 Hz); 19F NMR (282 MHz, CDCl3): δ−96.3 (m, 1F).

reactant | (2-fluoro-6-iodo-phenyl)-carbamic acid tert-butyl ester | 67 mmol, 22.5 g | C(C)(C)(C)OC(NC1=C(C=CC=C1I)F)=O | C11H13FINO2
reactant | sodium nitrite | 70 mmol, 4.9 g | N(=O)[O-].[Na+]
reactant | hydrobromic acid | 100 mL | Br | BrH
solvent | ethanol | 100 mL | C(C)O | C2H6O
solvent | water | 25 mL | O | H2O
catalyst | copper (I) bromide | 20 mmol, 2.93 g | [Cu]Br
product | 2-bromo-1-fluoro-3-iodo-benzene | 10.5 g, 50% | BrC1=C(C=CC=C1I)F | C6H3BrFI
